US06492364B1
4-(N-(2-acetylphenyl)carbamoyl)butanoic acid (4.87 g) was dissolved in 2% aqueous potassium hydroxide solution (100 ml), and the resulting solution was heated to reflux overnight. Concentrated hydrochloric acid was added to the reaction solution and the precipitated solids were recrystallized from methanol/chloroform/ethyl acetate to obtain 2.26 g of 3-(4-methyl-2-oxo-3-hydroquinolyl)propanoic acid as colorless crystals. Yield: 50%.

reactant | 4-(N-(2-acetylphenyl)carbamoyl)butanoic acid | 4.87 g | C(C)(=O)C1=C(C=CC=C1)NC(=O)CCCC(=O)O | C13H15NO4
reactant | hydrochloric acid | Cl | ClH
solvent | potassium hydroxide | 100 ml | [OH-].[K+]
product | 3-(4-methyl-2-oxo-3-hydroquinolyl)propanoic acid | 2.26 g, Yield: 50% | CC1=C(C(=O)NC2=CC=CC=C12)CCC(=O)O | C13H13NO3
